US04440929
5-Methyl-1-methylthio-4-oxo-7-trifluoromethyl-4,5-dihydroimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester
To a solution of 1-mercapto-5-methyl-4-oxo-7-trifluoromethyl-4,5-dihydroimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester (0.2 g) in dichloromethane was added methyliodide (0.15 g) and triethylamine (0.1 g) with stirring. The mixture was refluxed on a steam bath for one hour, then cooled and washed with water. After drying, the organic phase was evaporated under water aspirator vacuum to give the product as a white solid (0.1 g, 49% yield). Recrystallized from acetonitrile, m.p. 202°-204° C.

reactant | 1-mercapto-5-methyl-4-oxo-7-trifluoromethyl-4,5-dihydroimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester | 0.2 g | C(C)OC(=O)C=1N=C(N2C1C(N(C1=CC(=CC=C21)C(F)(F)F)C)=O)S | C15H12F3N3O3S
reactant | methyliodide | 0.15 g | CI | CH3I
reactant | triethylamine | 0.1 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-Methyl-1-methylthio-4-oxo-7-trifluoromethyl-4,5-dihydroimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester | 0.1 g, 49% yield | C(C)OC(=O)C=1N=C(N2C1C(N(C1=CC(=CC=C21)C(F)(F)F)C)=O)SC | C16H14F3N3O3S
